US04929549
Step B: 5-[N-(3-Oxo-3-thia-n-butyl)carbamoyl]thieno[2,3-b]thiophene-2-sulfonamide
Sodium periodate (1.40 g., 6.54 mmoles) was dissolved in water (20 mL). THF (20 mL) was added followed by 5-[N-(3-thia-n-butyl)carbamoyl]thieno[2,3-b]thiophene-2-sulfonamide (1.10 g., 3.27 mmoles) were stirred at room temperature under Argon for 24 hours. The solution was filtered and then stripped of the THF and all but 2-2 mL of water. The product was then crystallized, collected and dried. Recrystallization from nitromethane gave 1.0 g. of 5-[N-(3-oxo-3-thia-n-butyl)carbamoyl]thieno[2,3-b]thiophene-5-sulfonamide, mp 242°-243° C.

reactant | Sodium periodate | 6.54 mmoles, 1.40 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | 5-[N-(3-thia-n-butyl)carbamoyl]thieno[2,3-b]thiophene-2-sulfonamide | 3.27 mmoles, 1.10 g | C(CSC)NC(=O)C1=CC2=C(S1)SC(=C2)S(=O)(=O)N | C10H12N2O3S4
solvent | water | 20 mL | O | H2O
product | 5-[N-(3-Oxo-3-thia-n-butyl)carbamoyl]thieno[2,3-b]thiophene-2-sulfonamide | O=S(CCNC(=O)C1=CC2=C(S1)SC(=C2)S(=O)(=O)N)C | C10H12N2O4S4
